US06117881
(E)-1-[1-(3,4-Methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-methylaminomethylphenyl)propene-1-one
A solution of (E)-1-[1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-methyliminomethylphenyl)propene-1-one (0.46 g, 1.1 mmol), NaBH3CN (0.14 g, 2.3 mmol) and acetic acid (0.11 mL) in 20 mL of MeOH was stirred at rt for one hour. The reaction mixture was quenched with 50 mL of an aqueous saturated solution of NaHCO3. Extraction with 2×30 mL of DCM, washing with brine, drying over Na2SO4 and concentration in vacuo gave a residue that was purified via flash chromatography of silica gel using DCM:MeOH (97.3) as eluting solvent. Recrystallization from DCM:cyclohexane gave the title compound (0.05 g, 10%) as a white powder.

reactant | (E)-1-[1-(3,4-methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-methyliminomethylphenyl)propene-1-one | 1.1 mmol, 0.46 g | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C(\C=C\C1=CC=C(C=C1)C=NC)=O | C29H25N3O3
reactant | NaBH3CN | 2.3 mmol, 0.14 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.11 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 20 mL | CO | CH4O
product | (E)-1-[1-(3,4-Methylenedioxyphenyl)-1,3,4,9-tetrahydro-β-carbolin-2-yl]-3-(4-methylaminomethylphenyl)propene-1-one | 0.05 g, 10% | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C(\C=C\C1=CC=C(C=C1)CNC)=O | C29H27N3O3
